US07018559B2
B. Synthesis of 3-butoxyethoxymethyl-7-oxabicyclo[4.1.0]heptane
A 500 mL round bottom flask equipped with a stirrer bar was charged with 13.78 g (0.065 mol) 3-butoxyethoxymethylcyclohexene, and 100 niL of methylene chloride. Peracetic acid (15.5 g, 35 wt. % in acetic acid; 0.065 mol) in methylene chloride (80 mL) was added dropwise to above mixture over 30 min. in an ice bath. After the above mixture was reacted at room temperature overnight, 250 mL of water was added to above reaction mixture, the water layer was extracted with methylene chloride (2×150 mL), the organic layer was combined, and washed with saturated sodium carbonate solution (2×150 mL), then with water (2×150 mL) and dried with sodium sulfate. The solvent was evaporated and the residue distilled to give pure product.

reactant | 3-butoxyethoxymethylcyclohexene | 0.065 mol, 13.78 g | C(CCC)OCCOCC1C=CCCC1 | C13H24O2
reactant | Peracetic acid | 0.065 mol, 15.5 g | C(C)(=O)OO | C2H4O3
reactant | water | 250 mL | O | H2O
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-butoxyethoxymethyl-7-oxabicyclo[4.1.0]heptane | C(CCC)OCCOCC1CC2OC2CC1 | C13H24O3
